US09340556B2
To a solution of ethyl 1-ethyl-8-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (24 g, 74.2 mmol) in Dichloromethane (DCM) (300 mL) was added boron tribromide (35.1 mL, 371 mmol) at −78° C. The mixture was warmed up to rt and stirred at 25° C. overnight. LCMS indicated completion of the reaction. The mixture was diluted with EtOH and concentrated in vacuo. The same procedure was repeated several times to afford 1-ethyl-8-fluoro-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (18 g, 67.4 mmol, 91% yield) as a yellow solid. This product was used in next step reaction without further purification. LCMS (M+H)+: 268.0.

reactant | ethyl 1-ethyl-8-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 74.2 mmol, 24 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OC)OC)=O)C(=O)OCC | C16H18FNO5
reactant | boron tribromide | 371 mmol, 35.1 mL | B(Br)(Br)Br | BBr3
solvent | Dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | EtOH | CCO | C2H6O
product | 1-ethyl-8-fluoro-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 67.4 mmol, 18 g, 91% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)O)O)=O)C(=O)O | C12H10FNO5
